US08314087B2
(4-(2-Bromoethyl)phenoxy)(tert-butyl)dimethylsilane.
To a stirring solution of 2-(4-(tert-butyldimethylsilyloxy)phenyl)ethanol (1250 mg, 4.95 mmol) in acetonitrile (50 mL) and diethyl ether (25 mL) was sequentially added triphenylphosphine (3.44 mL, 14.8 mmol), 1H-imidazole (1011 mg, 14.8 μmol), and bromine (765 μl, 14.8 mmol). The clear solution was stirred at 23° C. for 18 h. The mixture was concentrated directly onto silica (20 g) under reduced pressure then purified on 120 grams of silica eluting with 0-5% EtOAc/Hexane. MS (ESI pos. ion) m/z (MH+): 315/317. Calc'd exact mass for C14H23BrOSi: 314. 1H NMR (400 MHz, Chloroform-d) δ ppm 0.19 (s, 6 H) 0.98 (s, 9 H) 3.08 (t, J=7.78 Hz, 2 H) 3.47-3.57 (m, 2 H) 6.78 (d, J=8.53 Hz, 2 H) 7.05 (d, J=8.53 Hz, 2 H).

reactant | 2-(4-(tert-butyldimethylsilyloxy)phenyl)ethanol | 4.95 mmol, 1250 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CCO | C14H24O2Si
reactant | triphenylphosphine | 14.8 mmol, 3.44 mL | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1H-imidazole | 14.8 μmol, 1011 mg | N1C=NC=C1 | C3H4N2
reactant | bromine | 14.8 mmol, 765 μl | BrBr | Br2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | (4-(2-Bromoethyl)phenoxy)(tert-butyl)dimethylsilane | BrCCC1=CC=C(O[Si](C)(C)C(C)(C)C)C=C1 | C14H23BrOSi
